US05292971
Preparation of 2,3-dihydroxy-5,6,6-trifluoro-5-(trifluoromethyl)bicyclo[2.2.1]heptane
4.3 g (20 mmol) of the Diels-Alder reaction product of hexafluoropropene and cyclopentadiene are mixed with 10 ml of water, 1 ml of 30 percent strength sulfuric acid and 400 mg of the catalyst [CH3N(C8H17)3 ][PO4 {W(O)(O2)2 }4 ]whose preparation is described in Synthesis 296 (1989), and the mixture is heated to 60° C. 1.7 ml (40 mmol) of 70 percent strength hydrogen peroxide is then added, and the emulsion is kept at 60° C. for 6 hours. Upon cooling, a white solid precipitates which is filtered off with suction and washed with cold water. The crude product is then purified by sublimation at a pressure of 0.1 mbar and a temperature of 50 ° C.

reactant | hexafluoropropene | FC(C(=C(F)F)F)(F)F | C3F6
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 10 ml | O | H2O
product | 2,3-dihydroxy-5,6,6-trifluoro-5-(trifluoromethyl)bicyclo[2.2.1]heptane | OC1C2C(C(C(C1O)C2)(C(F)(F)F)F)(F)F | C8H8F6O2
